US04812470
9-Hydroxynonanoic acid (8.7 g, 50 mmol) in pyridine (8.1 ml, 100 mmol) was treated with acetic anhydride (4.7 ml, 50 mmol) at below 20° C. for 2 h. The mixture was poured onto ice and acidified. Two ether extractions gave 9-acetoxynonanoic acid as a colourless oil (10.8 g, 100%); δH (CDCl3) 10.0 (1H, s, CO2H), 4.0 (2H, t, H9), 2.3 (2H, m, H2), 2.0 (3H, s, OAC), 1.1-1.8 (12H, m, H3-H8).

reactant | 9-Hydroxynonanoic acid | 50 mmol, 8.7 g | OCCCCCCCCC(=O)O | C9H18O3
reactant | pyridine | 100 mmol, 8.1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 50 mmol, 4.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9-acetoxynonanoic acid | 10.8 g, 100% | C(C)(=O)OCCCCCCCCC(=O)O | C11H20O4
